US06916819B2
To a stirred solution of 2-trimethylsilanyl-thiazole (2.6 g, 16.53 mmol) in DCM (30 mL) is added a solution of 3-chlorocarbonyl-propionic acid ethyl ester (5.4 g, 32.81 mmol) in DCM (10 mL). The mixture is stirred overnight at room temperature. To the mixture is added 5% NaHCO3 (30 mL) and mixture is stirred at room temperature for 20 minutes. The organic layer is separated and the aqueous lay is extracted with DCM (2×50 mL). The combined organic layers are dried and the solvent removed. The residue is separated by column (methylene chloride) to give 4-oxo-4-thiazol-2-yl-butyric acid ethyl ester.

reactant | 2-trimethylsilanyl-thiazole | 16.53 mmol, 2.6 g | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | 3-chlorocarbonyl-propionic acid ethyl ester | 32.81 mmol, 5.4 g | C(C)OC(CCC(=O)Cl)=O | C6H9ClO3
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-oxo-4-thiazol-2-yl-butyric acid ethyl ester | C(C)OC(CCC(C=1SC=CN1)=O)=O | C9H11NO3S
